US05691323
To a stirred solution of the cis and trans isomers of ethyl 1-[4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]cyclohexane-4-carboxylate (2.16 g) in dry toluene (150 mL) at -90° C. under argon, was added diisobutylaluminum hydride (11.6 mL of a 1.5M solution in toluene). The reaction mixture was stirred at -90° C. for 1 h, then quenched with methanol (1 mL) followed by saturated sodium potassium tartrate (50 mL). The layers were separated, the aqueous layer was extracted with 2×100 mL of ethyl acetate, and the combined organic layers were dried over MgSO4 and concentrated to dryness under reduced pressure to give the cis and trans isomers of 1-[4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]cyclohexane-4-carboxaldehyde as a colorless foam (1.82 g).

reactant | ethyl 1-[4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]cyclohexane-4-carboxylate | 2.16 g | O=C1NC2=C(N1C1CCN(CC1)C1CCC(CC1)C(=O)OCC)C=CC=C2 | C21H29N3O3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]cyclohexane-4-carboxaldehyde | 1.82 g | O=C1NC2=C(N1C1CCN(CC1)C1CCC(CC1)C=O)C=CC=C2 | C19H25N3O2
